*
* NGSPICE simulation script
* Lab1
*

* forces current values to be saved
.options savecurrents

* Va supply voltage
Vcc 0 1 0V
*V6-v8 supply voltage
Vc6-8 6 8 (V6-V8)V

* Test supply voltage
V6 9 6 0V

* Vc dependent supply voltage
Hc 4 7 V6 8.10223845988k

* Id current source
Id 7 5 1.0053213836mA

* Ib dependent current source 
Gb 5 3 (2,4) 7.26693007101m

* R1
R1 1 2 1.04944227714k

* R2
R2 3 2 2.06296295698k

* R3
R3 2 4 3.07855037163k

* R4
R4 4 0 4.04814283444k 

* R5
R5 4 5 3.03583837907k

* R6
R6 0 9 2.01824745844k

* R7
R7 6 7 1.04357678508k

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"


echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
